US07718693B2
1,1-Dimethylethyl 1-ethyl-5-oxo-prolinate (0.965 g) was dissolved in dichloromethane (˜5 ml) and treated with trifluoroacetic acid (1 ml). The mixture was stirred at room temperature for 1.5 hrs and then evaporated. The resulting material was mostly starting material so a further amount of trifluoroacetic acid (1 ml) and dichloromethane (˜5 ml) was added and the mixture stirred at room temperature for 36 hrs. The mixture was evaporated and then toluene was added to the residue and this was in turn also evaporated. After repeating this process once more, crude 1-ethyl-5-oxo-proline was obtained as a dark yellow oil which was used without additional purification.

reactant | 1,1-Dimethylethyl 1-ethyl-5-oxo-prolinate | 0.965 g | C(C)N1[C@H](C(=O)OC(C)(C)C)CCC1=O | C11H19NO3
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ˜5 ml | ClCCl | CH2Cl2
product | 1-ethyl-5-oxo-proline | C(C)N1[C@H](C(=O)O)CCC1=O | C7H11NO3
